US05658922
3-Acetoxy-20-tert-butyldimethylsilyloxy-pregn-5-ene
Imidazole (203.7 gm, 2.28 mol) was added to a stirred suspension of 3-acetoxy-pregn-5-ene-20-ol (361 gm, 1 mol) in dimethylformamide (3.7 L). t-Butyldimethylsilyl chloride (228.9 mg, 1.52 mol) was added over a 10-15 min period. The mixture was stirred at room temperature for 3 days. The dimethylformamide was removed by decantation and methanol (50 mL) was added to it. Water (4 L) was added and the solution extracted with ethyl acetate (2×4 L). The precipitant remaining behind after decantation was dissolved in ethyl acetate and added to the above ethyl acetate extracts. The combined solvent extracts were washed with water, saturated salt solution, and dried over anhydrous magnesium sulfate. The solvent was removed by rotoevaporation and the product purified by column chromatography on silica gel eluted with 2:1 hexane-methylene chloride followed by 1:1 hexane-methylene chloride. The title compound was isolated as a mixture of 20α- and _β-isomers (363.3 gm, 76% yield).

reactant | Imidazole | 2.28 mol, 203.7 gm | N1C=NC=C1 | C3H4N2
reactant | 3-acetoxy-pregn-5-ene-20-ol | 1 mol, 361 gm | C(C)(=O)OC1CC2=CC[C@H]3[C@@H]4CC[C@H](C(C)O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C23H36O3
reactant | t-Butyldimethylsilyl chloride | 1.52 mol, 228.9 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 3.7 L | CN(C=O)C | C3H7NO
product | 3-Acetoxy-20-tert-butyldimethylsilyloxy-pregn-5-ene | 76% yield | C(C)(=O)OC1CC2=CC[C@H]3[C@@H]4CC[C@H](C(C)O[Si](C)(C)C(C)(C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C29H50O3Si
